US08957104B2
A. Methyl 2-(5-cyano-2-propyl-4-(trifluoromethyl)-1H-indol-1-yl)propanoate
Synthesized in a manner similar to Example 1 using 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and methyl 2-bromopropanoate: MS (ESI): m/z 339 (MH+).

reactant | 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C(CC)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C13H11F3N2
reactant | methyl 2-bromopropanoate | BrC(C(=O)OC)C | C4H7BrO2
product | Methyl 2-(5-cyano-2-propyl-4-(trifluoromethyl)-1H-indol-1-yl)propanoate | C(#N)C=1C(=C2C=C(N(C2=CC1)C(C(=O)OC)C)CCC)C(F)(F)F | C17H17F3N2O2
